US04188320
A mixture of 3.5g of sodium p-(4-hydroxy-1-naphthylazo)-benzenesulfonate and 7g of lauric anhydride was dissolved in 50 ml of dimethylformamide. After addition of 1 ml of pyridine, the solution was heated until both solutes were completely dissolved, refluxed for about 10 minutes, and cooled. The precipitating crystal was isolated by filtration and recrystallized from dimethylformamide-acetone to produce sodium p-(4-lauryloxy-1-naphthylazo)benzenesulfonate. The yield was 75.2% and the melting point was 300° C. or more (decomposition).

reactant | sodium p-(4-hydroxy-1-naphthylazo)-benzenesulfonate | 3.5g | OC1=CC=C(C2=CC=CC=C12)N=NC1=CC=C(C=C1)S(=O)(=O)[O-].[Na+]
reactant | lauric anhydride | C(CCCCCCCCCCC)(=O)OC(CCCCCCCCCCC)=O | C24H46O3
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | sodium p-(4-lauryloxy-1-naphthylazo)benzenesulfonate | yield was 75.2% | C(CCCCCCCCCCC)OC1=CC=C(C2=CC=CC=C12)N=NC1=CC=C(C=C1)S(=O)(=O)[O-].[Na+] | InChI=1S/C28H36N2O4S.Na/c1-2-3-4-5-6-7-8-9-10-13-22-34-28-21-20-27(25-14-11-12-15-26(25)28)30-29-23-16-18-24(19-17-23)35(31,32)33;/h11-12,14-21H,2-10,13,22H2,1H3,(H,31,32,33);/q;+1/p-1
